US04833270
2-Chloro-α-(ethoxymethylene)-4,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester
A solution of 14.5 g of 2-chloro-4,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester and 12.27 g of triethyl orthoformate in 13 ml of acetic anhydride was heated at 150° C. for 2 hours and then evaporated to dryness, giving 16.59 g of the desired product as an oil.

reactant | 2-chloro-4,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 14.5 g | ClC1=C(C=C(C(=C1)F)F)C(CC(=O)OCC)=O | C11H9ClF2O3
reactant | triethyl orthoformate | 12.27 g | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Chloro-α-(ethoxymethylene)-4,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 16.59 g | ClC1=C(C=C(C(=C1)F)F)C(C(C(=O)OCC)=COCC)=O | C14H13ClF2O4
